US05102667
Triethylamine (0.45 cc) and then phenylacetyl chloride (0.49 g) are added to a solution of 7,7-bis-(3-chlorophenyl)-4-perhydroisoindolone hydrochloride (1.06 g) in dichloromethane (20 cc) cooled to +4° C. The reactio mixture is stirred for 2 hours at 25° C. and then washed with water (3×30 cc) and with saturated sodium chloride solution (3×30 cc). The organic phase is dried over magnesium sulphate and filtered and the filtrate is concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.04-0.063 mm, diameter 2.2 cm, height 23 cm), eluting under a nitrogen pressure of 0.5 bar with a mixture of cyclohexane and ethyl acetate (55/45 by volume) and collecting 15 cc fractions. Fractions 7 to 18 are concentrated to dryness under reduced pressure (2.7 kPa) and the residue is crystallized from acetonitrile. The crystals are drained, washed with isopropyl ether and dried. (3aRS,7aRS)-7,7-bis-(3-chlorophenyl)-2-(phenylacetyl)-4-perhydroisoindolone (0.21 g) is obtained. m.p.=160° C.

reactant | Triethylamine | 0.45 cc | C(C)N(CC)CC | C6H15N
reactant | phenylacetyl chloride | 0.49 g | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | 7,7-bis-(3-chlorophenyl)-4-perhydroisoindolone hydrochloride | 1.06 g | Cl.ClC=1C=C(C=CC1)C1(CCC(C2CNCC12)=O)C1=CC(=CC=C1)Cl
solvent | dichloromethane | 20 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-7,7-bis-(3-chlorophenyl)-2-(phenylacetyl)-4-perhydroisoindolone | 0.21 g | ClC=1C=C(C=CC1)C1(CCC(C2CN(CC12)C(CC1=CC=CC=C1)=O)=O)C1=CC(=CC=C1)Cl | C28H25Cl2NO2
